US09085606B2
Preparation of 3-amino-3-(3,5-di-tert-butylphenyl)propionic acid
A mixture 3,5-di-tert-butylbenzaldehyde (0.996 g, 4.56 mmol), malonic acid (0.572 g, 5.50 mmol) and ammonium acetate (0.710 g, 9.21 mmol) in isopropanol (30 mL) was heated at reflux under nitrogen for 5 h to afford a colorless solid. The solid was filtered and washed with hot isopropanol (30 mL). The residue was dried in vacuo to give the desired racemic product as a colorless solid (0.340 g).

reactant | 3,5-di-tert-butylbenzaldehyde | 4.56 mmol, 0.996 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1)C(C)(C)C | C15H22O
reactant | malonic acid | 5.50 mmol, 0.572 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | ammonium acetate | 9.21 mmol, 0.710 g | C(C)(=O)[O-].[NH4+]
solvent | isopropanol | 30 mL | C(C)(C)O | C3H8O
product | 3-amino-3-(3,5-di-tert-butylphenyl)propionic acid | 0.340 g | NC(CC(=O)O)C1=CC(=CC(=C1)C(C)(C)C)C(C)(C)C | C17H27NO2
